US05470967
A mixture of 8.9 g (24 mmol) of 5'-Azido-N6-benzoyl-2',5'-dideoxyadenosine (which can be prepared as in reference 36), 5.4 g (35 mmol) of t-butyldimethylsilyl chloride, and 3.3 g (48 mmol) of imidazole in 100 ml of anhydrous dimethylformamide (DMF) was stirred at room temperature (RT) for 20 hr. The solvent was removed under vacuum, and the residue was partitioned between one half saturated brine and EtOAc (2×200 ml). The combined organic layers were washed with brine, dried with sodium sulfate (dried), and evaporated (evap.). Purification by chromatography on silica (silica gel (240-400 mesh) from EM Science) using 20 to 40% EtOAc/DCM gave 11.1 g of 5'-Azido-N6-benzoyl-3'-O-t-butyldimethylsilyl-2',5'-dideoxyadenosine as a white foam: NMR (300 MHz,d6-DMSO) δ11.25 (br, 1H), 8.78 (s,1H), 8.71 (s, 1H), 8.05 (m, 2H), 7.5-7.7 (m, 3H), 6.52 (t, 1H,J=7 Hz), 4.72 (m, 1H), 4.02 (m,1H), 3.67 (dd,1H, J=13,7 Hz), 3.56 (dd,1H,J=13,5 Hz), 3.09 (m, 1H), 2.43 (m,1H), 0.92 (s,9H), 0.14 (s,6H).

reactant | 5'-Azido-N6-benzoyl-2',5'-dideoxyadenosine | 24 mmol, 8.9 g | N(=[N+]=[N-])C[C@@H]1[C@H](C[C@@H](O1)N1C=NC=2C(NC(C3=CC=CC=C3)=O)=NC=NC12)O | C17H16N8O3
reactant | t-butyldimethylsilyl chloride | 35 mmol, 5.4 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 48 mmol, 3.3 g | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5'-Azido-N6-benzoyl-3'-O-t-butyldimethylsilyl-2',5'-dideoxyadenosine | 11.1 g | N(=[N+]=[N-])C[C@@H]1[C@H](C[C@@H](O1)N1C=NC=2C(NC(C3=CC=CC=C3)=O)=NC=NC12)O[Si](C)(C)C(C)(C)C | C23H30N8O3Si
